US09340506B2
2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazol-2-yl-acetamide
2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid (preparation 4) was dissolved in DCM. To this solution was added DMF and cooled to 0° C., followed by the addition of oxalyl chloride under stirring. To this mixture, a solution of 2-aminothiazole and pyridine in DCM was added drop wise at 0° C. and was stirred further for 4 h. at room temperature. The reaction mixture was poured into IN aqueous HCl under stirring, organic layer was again washed with 1N HCl, followed by 5% brine, dried over anhydrous sodium sulfate, solvent was removed under reduced pressure to get the crude compound which was purified by flash chromatography to get the title product.

reactant | 2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
reactant | HCl | Cl | ClH
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazol-2-yl-acetamide | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)OC1CCOCC1 | C19H22N2O5S2
